US08557814B2
trans-4-[4-amino-5-(7-methoxy-1H-indol-2-yl)imidazo[5,1-f][1,2,4]triazin-7-yl]cyclohexane carboxylic acid tromethamine salt
The compound trans-4-[4-Amino-5-(7-methoxy-1H-indol-2-yl)-imidazo[5,1-f][1,2,4]triazin-7-yl]-cyclohexanecarboxylic acid can be prepared as known in the art, e.g., according to US 2007/0112005 (Example 258 thereof). This product (5.01 g, 12.3 mmol) was suspended in MeOH (75.0 mL) and heated to reflux. 1,3-Propanediol, 2-amino-2-(hydroxymethyl) (1.79 g, 14.8 mmol) was added and the reaction was heated at reflux for 1 h. The suspension was allowed to cool to RT and then filtered. The solid was washed with MeOH and then dried in vacuo overnight at 50° C. to provide the title compound as a tan solid (4.57 g, 70.2% yield). 1H NMR (400 MHz, CD3OD): δ 1.67 (dddd, J=12.8, 12.8, 12.8, 2.8 Hz, 2H), 1.87 (dddd, J=13.2, 13.2, 13.2, 3.2 Hz, 2H), 2.14-2.17 (m, 4H), 234 (tt, J=12.4, 2.8 Hz, 1H), 3.40 (tt, J=12.4, 3.2 Hz, 1H), 3.65 (s, 6H), 4.01 (s, 3H), 6.75 (d, J=7.2 Hz, 1H), 6.75 (s, 1H), 7.04 (dd, J=7.6, 7.6 Hz, 1H), 7.23 (d, J=7.6 Hz, 1H), 7.88 (s, 1H). 13C NMR (100 MHz, DMSO): δ 29.1, 29.6, 34.3, 43.9, 55.3, 59.0, 61.3, 102.3, 102.5, 110.9, 113.1, 120.1, 126.8, 127.2, 130.0, 132.1, 146.3, 146.7, 178.6. LCMS (ESI+): m/z 407 (MH+). Anal. Calcd. for C25H33N7O6: C, 56.92%; H, 6.30%; N, 18.58%; O, 18.20%. Found: C, 56.23%; H, 6.31%; N, 18.33%; O, 18.63%.

reactant | trans-4-[4-Amino-5-(7-methoxy-1H-indol-2-yl)-imidazo[5,1-f][1,2,4]triazin-7-yl]-cyclohexanecarboxylic acid | NC1=NC=NN2C1=C(N=C2[C@@H]2CC[C@H](CC2)C(=O)O)C=2NC1=C(C=CC=C1C2)OC | C21H22N6O3
reactant | 1,3-Propanediol | C(CCO)O | C3H8O2
reactant | MeOH | 75.0 mL | CO | CH4O
product | trans-4-[4-amino-5-(7-methoxy-1H-indol-2-yl)imidazo[5,1-f][1,2,4]triazin-7-yl]cyclohexane carboxylic acid tromethamine salt | 4.57 g, 70.2% yield | NC(CO)(CO)CO.NC1=NC=NN2C1=C(N=C2[C@@H]2CC[C@H](CC2)C(=O)O)C=2NC1=C(C=CC=C1C2)OC | InChI=1S/C21H22N6O3.C4H11NO3/c1-30-15-4-2-3-13-9-14(25-16(13)15)17-18-19(22)23-10-24-27(18)20(26-17)11-5-7-12(8-6-11)21(28)29;5-4(1-6,2-7)3-8/h2-4,9-12,25H,5-8H2,1H3,(H,28,29)(H2,22,23,24);6-8H,1-3,5H2/t11-,12-;
